US04843087
Thionyl chloride (20.0 g) was added to a stirred suspension of 13.3 g of N,N'-bis(2-hydroxyethyl)-4,4'-dithiobis[benzamide] in 250 ml of isopropyl acetate. The reaction mixture was allowed to stand for 3 days and the solid product was collected and dried to give 10.3 g of bis[4-(4,5-dihydro-2-oxazolyl)phenyl]disulfide, used directly in the next reaction.

reactant | Thionyl chloride | 20.0 g | S(=O)(Cl)Cl | Cl2OS
reactant | N,N'-bis(2-hydroxyethyl)-4,4'-dithiobis[benzamide] | 13.3 g | OCCNC(C1=CC=C(C=C1)SSC1=CC=C(C(=O)NCCO)C=C1)=O | C18H20N2O4S2
solvent | isopropyl acetate | 250 ml | C(C)(=O)OC(C)C | C5H10O2
product | bis[4-(4,5-dihydro-2-oxazolyl)phenyl]disulfide | 10.3 g | O1C(=NCC1)C1=CC=C(C=C1)SSC1=CC=C(C=C1)C=1OCCN1 | C18H16N2O2S2
